US07462738B2
A round-bottomed flask is equipped with magnetic stirrer and charged with methylene dichloride (100 ml), (S)-3-((Methoxycarbonyl)methyl)-5-methylhexanoic acid (20 g) and with triethylamine (0.77 g) and cooled to 0-5° C. followed by addition of ethyl chloroformate (9 g). The mixture was stirred for 1-2 h at a temperature of 20° C. to 25° C., followed by quenching with 25% aqueous ammonia (100 ml). The resulted slurry is filtered and washed with water and dried to obtain a solid of (R)-methyl 3-(carbamoylmethyl)-5-methylhexanoate.

reactant | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | (S)-3-((Methoxycarbonyl)methyl)-5-methylhexanoic acid | 20 g | COC(=O)C[C@H](CC(=O)O)CC(C)C | C10H18O4
reactant | ethyl chloroformate | 9 g | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.77 g | C(C)N(CC)CC | C6H15N
product | (R)-methyl 3-(carbamoylmethyl)-5-methylhexanoate | C(N)(=O)C[C@H](CC(=O)OC)CC(C)C | C10H19NO3
